US04342775
NaBH4 (1 g) was added portionwise to a solution of 3-(1-imidazolyl)-2,3-dihydro-6-chloro-4H-1-benzopyran-4-one (2.7 g) in MeOH (70 ml) at 5°-10° C. The mixture, stirred at room temperature for 2 hours, added with water (300 ml), extracted with CHCl3, dried and evaporated to dryness gave 3-(1-imidazolyl)-2,3-dihydro-6-chloro-4H-1-benzopyran-4-ol (cis and trans mixture; 1.9 g). The separation of the isomers was made by column chromatography of silica gel, eluent used: CHCl3 :MeOH:NH4OH 32%=170:30:1. A first a fraction was obtained consisting of cis-3-(1-imidazolyl)-2,3-dihydro-6-chloro-4H-1-benzopyran-4-ol (0.8 g) (Rf =0.44), m.p. 153°-160° C.

reactant | NaBH4 | 1 g | [BH4-].[Na+]
reactant | 3-(1-imidazolyl)-2,3-dihydro-6-chloro-4H-1-benzopyran-4-one | 2.7 g | N1(C=NC=C1)C1COC2=C(C1=O)C=C(C=C2)Cl | C12H9ClN2O2
reactant | water | 300 ml | O | H2O
solvent | MeOH | 70 ml | CO | CH4O
product | 3-(1-imidazolyl)-2,3-dihydro-6-chloro-4H-1-benzopyran-4-ol | 1.9 g | N1(C=NC=C1)C1COC2=C(C1O)C=C(C=C2)Cl | C12H11ClN2O2
